US09359375B2
6-(1-carbamoylcyclopentylamino)-5-fluoro-2-(quinolin-3-ylamino)nicotinamide
To a solution of crude 1-(5-cyano-3-fluoro-6-(quinolin-3-ylamino)pyridin-2-ylamino)cyclopentanecarboxamide in EtOH (2 mL) and DMSO (1 mL), aq. 1N NaOH (1 mL) and aq. H2O2 (50%, 1 mL) were added. The mixture was stirred for 1 h. HOAc (0.5 mL) was added. It was concentrated in vacuo. The residue was purified by HPLC to give the titled compound (41 mg). MS 409.4 (M+H); UV 224.1, 243.7, 302.6, 324.8 nm; t 0.495 min.

reactant | 1-(5-cyano-3-fluoro-6-(quinolin-3-ylamino)pyridin-2-ylamino)cyclopentanecarboxamide | C(#N)C=1C=C(C(=NC1NC=1C=NC2=CC=CC=C2C1)NC1(CCCC1)C(=O)N)F | C21H19FN6O
reactant | NaOH | 1N, 1 mL | [OH-].[Na+]
reactant | H2O2 | 1 mL | OO | H2O2
reactant | HOAc | 0.5 mL | CC(=O)O | C2H4O2
solvent | EtOH | 2 mL | CCO | C2H6O
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | 6-(1-carbamoylcyclopentylamino)-5-fluoro-2-(quinolin-3-ylamino)nicotinamide | 41 mg | C(N)(=O)C1(CCCC1)NC1=NC(=C(C(=O)N)C=C1F)NC=1C=NC2=CC=CC=C2C1 | C21H21FN6O2
